US07238716B2
A mixture of 4-(5-chloromethyl-2-methoxyphenoxymethyl)-5-methyl-2-phenyloxazole (400 mg), methyl 3-hydroxyphenylacetate (195 mg), potassium carbonate (320 mg) and N,N-dimethylformamide (10 mL) was stirred at 90° C. for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give crystals of methyl 3-[4-methoxy-3-[(2-phenyl-5-methyl-4-oxazolyl)methoxy]benzyloxy]phenylacetate from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals (470 mg, 85%). melting point: 88-89° C.

reactant | 4-(5-chloromethyl-2-methoxyphenoxymethyl)-5-methyl-2-phenyloxazole | 400 mg | ClCC=1C=CC(=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C1)OC | C19H18ClNO3
reactant | methyl 3-hydroxyphenylacetate | 195 mg | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 320 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[4-methoxy-3-[(2-phenyl-5-methyl-4-oxazolyl)methoxy]benzyloxy]phenylacetate | COC1=C(C=C(COC=2C=C(C=CC2)CC(=O)OC)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H27NO6
